US04548948
Preparation of 5-chlorobenzothiophene-3-carboxaldehyde (D23)
A stirred mixture of 5-chloro-3-methylbenzothiophene (39 g, 0.214 mole, (D22)) and recrystallized N-bromosuccinimide (77 g, 0.432 mole) in carbon tetrachloride (700 ml) was illuminated with a 100 W lamp, while heating at reflux temperature for 4 hours. The reaction mixture was allowed to cool, the solid was filtered off and the filtrate was evaporated to dryness to leave a yellow oil. This residue was treated with 10% sodium carbonate solution (450 ml) and heated under rflux, with vigorous stirring, for 5 hours. The mixture was allowed to cool and extracted with chloroform (3×200 ml). The organic solution was washed with brine (2×200 ml), dried (MgSO4) and evaporated to dryness to give the title compound as a red solid (37 g, 88%).

reactant | 5-chloro-3-methylbenzothiophene | 0.214 mole, 39 g | ClC=1C=CC2=C(C(=CS2)C)C1 | C9H7ClS
reactant | N-bromosuccinimide | 0.432 mole, 77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium carbonate | 450 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | carbon tetrachloride | 700 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chlorobenzothiophene-3-carboxaldehyde | 37 g, 88% | ClC=1C=CC2=C(C(=CS2)C=O)C1 | C9H5ClOS
